US07132419B2
4-Hydroxymethyl-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide
To a solution of 11-(2-dimethylamino-ethylcarbamoyl)-benzo[a]phenazine-4-carboxylic acid methyl ester (317 mg) in tetrahydrofuran (18 mL) and 2-propanol (10 mL) at 0° C. was added lithium borohydride (2.0M solution in tetrahydrofuran, 1.97 mL) The reaction mixture was stirred at room temperature overnight, and then quenched with ammonium chloride solution. The reaction mixture was extracted with ethyl acetate, dried (MgSO4) and concentrated in vacuo. The residue was purified using flash chromatography (10% MeOH in dichloromethane) to yield the title compound as a yellow solid (98 mg).

reactant | 11-(2-dimethylamino-ethylcarbamoyl)-benzo[a]phenazine-4-carboxylic acid methyl ester | 317 mg | COC(=O)C1=CC=CC=2C1=CC=C1N=C3C=CC=C(C3=NC21)C(NCCN(C)C)=O | C23H22N4O3
reactant | lithium borohydride | 2.0M, 1.97 mL | [BH4-].[Li+]
solvent | tetrahydrofuran | 18 mL | O1CCCC1 | C4H8O
solvent | 2-propanol | 10 mL | CC(C)O | C3H8O
product | 4-Hydroxymethyl-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | 98 mg | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4CO)C | C22H22N4O2
